US06258824B1
6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-isopropoxy-phenyl)-1H-quinolin-2-one
Following the same procedure as that described in example 1E, 6-bromo-4-(3-isopropoxy-phenyl)-2-methoxy-quinoline (238.4 mg, 0.640 mmol) and (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (156 mg, 0.705 mmol) generated the title compound of 34C (80 mg, 24% yield).

reactant | 6-bromo-4-(3-isopropoxy-phenyl)-2-methoxy-quinoline | 0.640 mmol, 238.4 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OC(C)C | C19H18BrNO2
reactant | (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 0.705 mmol, 156 mg | ClC1=CC=C(C=N1)C(=O)C=1N(C=NC1)C | C10H8ClN3O
product | 6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-isopropoxy-phenyl)-1H-quinolin-2-one | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OC(C)C)(C=1N(C=NC1)C)O | C28H25ClN4O3
